US05616610
d) (R)-8-Fluoro-3-(N-isopropyl-N-propylamino)-5-hydroxy-3,4-dihydro-2H -1-benzopyran
(R)-8-Fluoro-3-(N-isopropyl-N-propylamino)-5-methoxy-3,4-dihydro-2H-1-benzopyran hydrochloride (1.03 g, 3.24 mmol) was dissolved in anhydrous CH2Cl2 (30 mL) and cooled to -40° C. To the solution was BBr3 (0.77 mL, 8.1 mmol), dissolved in anhydrous CH2Cl2 (5 mL), added dropwise. The cooling-bath was removed and after 3 h at room temperature the reaction was complete. The reaction was poured out onto an ice/2M NH3 solution and the mixture was extracted, twice, with diethyl ether. The combined ether portions were treated with brine, dried (Na2SO4), filtered, and the solvent removed in vacuo to give the crude residue. Chromatography on silica (eluent: 20% ethyl acetate/hexane) gave 0.84 g (97% yield) of the title compound as a clear oil [α]21D =-94.2° (C=0.1 CHCl3) GC-MS (70 eV) M=267 (26%). The hydrochloride salt was made by dissolving the pure base in diethyl ether and dropping an excess of an ethereal HCl solution. The salt was recrystallized from CHCl3 /diethyl ether/ethyl acetate to give a white solid. Mp: 220°-2° C.

reactant | (R)-8-Fluoro-3-(N-isopropyl-N-propylamino)-5-methoxy-3,4-dihydro-2H-1-benzopyran hydrochloride | 3.24 mmol, 1.03 g | Cl.FC1=CC=C(C=2C[C@H](COC21)N(CCC)C(C)C)OC
reactant | BBr3 | 8.1 mmol, 0.77 mL | B(Br)(Br)Br | BBr3
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-8-Fluoro-3-(N-isopropyl-N-propylamino)-5-hydroxy-3,4-dihydro-2H -1-benzopyran | 0.84 g, 97% yield | FC1=CC=C(C=2C[C@H](COC21)N(CCC)C(C)C)O | C15H22FNO2
